US05117057
Preparation of N-benzoyl-N'-t-butyl-N'-(ethoxycarbonyl)methylhydrazine
N'-t-butyl-N-benzoylhydrazine (2.0 g), powdered potassium carbonate (5 g) and bromoethyl acetate (1.6 g) were stirred in dimethylformamide (20 ml) at 60° C. for 14 hours. The reaction mixture was diluted with water and ether, and the organic layer was separated. The organic layer was washed several times with water, dried over magnesium sulfate and rotavaped to afford an oil. Chromatographic purification gave the pure oil product (0.25 g).

reactant | N'-t-butyl-N-benzoylhydrazine | 2.0 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethyl acetate | 1.6 g | C(C)(=O)OCCBr | C4H7BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | N-benzoyl-N'-t-butyl-N'-(ethoxycarbonyl)methylhydrazine | 0.25 g | C(C1=CC=CC=C1)(=O)NN(CC(=O)OCC)C(C)(C)C | C15H22N2O3
